US04410520
1-Ethoxycarbonylmethyl-3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one.
A solution of 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (5.0 g) in dry dimethylformamide was added under a nitrogen atmosphere to a stirred suspension of sodium hydride [from the 60% mineral oil dispersion (0.5 g) washed with petroleum ether (3×80 ml)] in dry dimethylformamide (100 ml) at room temperature. Stirring was continued for an additional 30 minutes at room temperature, when a solution of ethyl bromoacetate (2.0 g) in dry dimethylformamide (10 ml) was added. After an additional 30 minutes at room temperature the reaction mixture was heated to 50°, and maintained at that temperature for 18 hours. The reaction mixture was cooled to room temperature and the solvent removed under high vacuum. Water (150 ml) was added and the solution extracted with ethyl acetate (2×300 ml). The combined ethyl acetate solutions were washed with water (100 ml), dried over MgSO4, and the solvent removed under reduced pressure to give a brown oil which was chromatographed on silica gel (250 g). Elution with toluene/ethyl acetate (9:1; 600 ml) gave an oil, characterized as isomer A of the title compound. Elution with an additional 1000 ml of the solvent mixture gave an oil characterized as isomer B of the title compound.

reactant | 3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 5.0 g | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C27H28N2O3
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonylmethyl-3-(1-benzyloxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)OC(=O)CN1C(C(CCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)=O | C31H34N2O5
